US08067598B2
N-[2-(5-Methyl-thiophen-2-yl)-ethyl]-3-(4-trifluoromethyl-phenyl)-propionamide
To a solution of 3 g (13 mmol) 4-(trifluoromethyl)hydrocinnamic acid (commercially available) in 30 mL DMF under argon were added 4.7 g (14.37 mmol) TBTU and 11.2 mL (65.3 mmol) N-ethyldiisopropylamine. A solution of 1.85 g (13 mmol) 2-(5-methyl-thiophen-2-yl)-ethylamine in 5 mL DMF was added drop wise over a period of 2 minutes. The mixture was stirred at room temperature for 1 h. The solvent was removed in vacuo and the residue was dissolved in ethyl acetate. The solution was washed with water and with a sat. NaHCO3 solution, dried over Na2SO4, filtered and concentrated in vacuo. The solid was stirred in 30 mL ether, filtered and dried. The mother liquor was concentrated in vacuo and purified on silica eluting with a gradient formed from heptane and ethyl acetate. The product containing fractions were evaporated. 3.75 g (84%) of the title compound was yielded as white solid.

reactant | 4-(trifluoromethyl)hydrocinnamic acid | 13 mmol, 3 g | FC(C1=CC=C(CCC(=O)O)C=C1)(F)F | C10H9F3O2
reactant | TBTU | 14.37 mmol, 4.7 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N-ethyldiisopropylamine | 65.3 mmol, 11.2 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-(5-methyl-thiophen-2-yl)-ethylamine | 13 mmol, 1.85 g | CC1=CC=C(S1)CCN | C7H11NS
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-[2-(5-Methyl-thiophen-2-yl)-ethyl]-3-(4-trifluoromethyl-phenyl)-propionamide | 3.75 g, 84% | CC1=CC=C(S1)CCNC(CCC1=CC=C(C=C1)C(F)(F)F)=O | C17H18F3NOS
